US04889857
A solution of 2.21 g of ethyl 1-cyclopropyl-6,8-difluoro-7-[2-(dimethylaminomethyl)morpholino]-1,4-dihydro-4-oxoquinoline-3-carboxylate and 5 ml of concentrated hydrochloric acid in 10 ml of water and 10 ml of ethanol is refluxed, for 2.5 hours. The resultant mixture is concentrated under reduced pressure and to the obtained crystals is added ethanol. The crystals are filtered off with suction, washed with ethanol and then dried to give 1.82 g of 1-cyclopropyl-6,8-difluoro-7-[2-(dimethylaminomethyl)morpholino]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid.hydrochloride in 80% yield, melting at 267°-268° C.

reactant | ethyl 1-cyclopropyl-6,8-difluoro-7-[2-(dimethylaminomethyl)morpholino]-1,4-dihydro-4-oxoquinoline-3-carboxylate | 2.21 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(OCC1)CN(C)C)F)=O)C(=O)OCC | C22H27F2N3O4
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-cyclopropyl-6,8-difluoro-7-[2-(dimethylaminomethyl)morpholino]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid.hydrochloride | 1.82 g, 80% yield | Cl.C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(OCC1)CN(C)C)F)=O)C(=O)O | InChI=1S/C20H23F2N3O4.ClH/c1-23(2)8-12-9-24(5-6-29-12)18-15(21)7-13-17(16(18)22)25(11-3-4-11)10-14(19(13)26)20(27)28;/h7,10-12H,3-6,8-9H2,1-2H3,(H,27,28);1H
